US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N2-(9-ethyl-9H-carbazol-3-yl)-N1-pentyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 63% purity by LC/MS. MS(ESI+): m/z=540.4.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(benzyloxy)imino]-N2-(9-ethyl-9H-carbazol-3-yl)-N1-pentyl-1,2-pyrrolidinedicarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)NCCCCC)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C32H37N5O3
